US07750034B2
Step A: 2-Methyl-5-[(4-methylphenyl)sulfonyl]-4,5,6,6a-tetrahydro-3aH-pyrrolo[3,4-d][1,3]thiazol-3a-ol
To 4-bromo-1-[(4-methylphenyl)sulfonyl]pyrrolidin-3-one (159 mg) (W.-J Kim, et al., Heterocycles, 1995, 41, 1389-1398) in 2 mL of N,N-dimethylformamide was added ethanethioamide (38 mg) and the reaction mixture heated to 50° C. for 2 h. The mixture was cooled to ambient temperature and diluted with a mixture of ethyl acetate/saturated aqueous sodium bicarbonate solution (1:1, 20 mL). The layers were separated and the aqueous phase extracted with ethyl acetate (3×10 mL). The combined organic phases were dried over anhydrous sodium sulfate, filtered, evaporated in vacuo The product was used without further purification. LC/MS 313.1 (M+1).

reactant | 4-bromo-1-[(4-methylphenyl)sulfonyl]pyrrolidin-3-one | 159 mg | BrC1C(CN(C1)S(=O)(=O)C1=CC=C(C=C1)C)=O | C11H12BrNO3S
reactant | ethanethioamide | 38 mg | C(C)(N)=S | C2H5NS
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-Methyl-5-[(4-methylphenyl)sulfonyl]-4,5,6,6a-tetrahydro-3aH-pyrrolo[3,4-d][1,3]thiazol-3a-ol | CC=1SC2C(N1)(CN(C2)S(=O)(=O)C2=CC=C(C=C2)C)O | C13H16N2O3S2
